US07153878B2
2-{2-[6-(2-Fluoro-phenyl)-pyridin-3-yl]-5-methyl-thiazol-4-yl}-propionic acid ethyl ester
A mixture of 6-(2-Fluoro-phenyl)-thionicotinamide (3.0 g, 12 mmol) and 4-bromo-3-oxo-2-methyl-pentanoic acid methyl ester (3.2 g, 14.4 mmol) in ethanol (100 mL) is heated to reflux for 24 h, and concentrated. The residue is purified by column chromatography on silica gel yielding 2.6 g of the product.

reactant | 6-(2-Fluoro-phenyl)-thionicotinamide | 12 mmol, 3.0 g | FC1=C(C=CC=C1)C1=NC=C(C(=S)N)C=C1 | C12H9FN2S
reactant | 4-bromo-3-oxo-2-methyl-pentanoic acid methyl ester | 14.4 mmol, 3.2 g | COC(C(C(C(C)Br)=O)C)=O | C7H11BrO3
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | 2-{2-[6-(2-Fluoro-phenyl)-pyridin-3-yl]-5-methyl-thiazol-4-yl}-propionic acid ethyl ester | C(C)OC(C(C)C=1N=C(SC1C)C=1C=NC(=CC1)C1=C(C=CC=C1)F)=O | C20H19FN2O2S
